US07435735B2
Step 3: Ethyl 3-[N-(3-ethoxy-3-oxopropyl)-N-methylamino]-3-oxopropanoate
To a cold (0° C.) solution of methylamine in ethanol (400 mL; 33% wt), ethyl acrylate (39.7 g, 0.397 mol) was added over a period of 20 minutes. The reaction mixture was stirred at 0° C. for 2 hours, and concentrated under vacuum. The crude product was used without further purification. The above crude product (21.8 g, 0.166 mol), diisopropylethylamine (28.9 mL, 0.166 mol), and 4-(N,N-dimethylamino)pyridine (2 g, 16 mmol) was dissolved in dichloromethane (300 mL) and cooled to 0° C. The mixture was treated with ethyl 3-chloro-3-oxopropionate (21.3 mL, 0.166 mol) and stirred at 0° C. for one hour. The mixture was allowed to warm up to room temperature and stirred overnight. The reaction mixture was partitioned with aq HCl (400 mL, 1M). The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide the title compound as yellow oil

reactant | methylamine | CN | CH5N
reactant | ethyl acrylate | 0.397 mol, 39.7 g | C(C=C)(=O)OCC | C5H8O2
reactant | diisopropylethylamine | 0.166 mol, 28.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 3-chloro-3-oxopropionate | 0.166 mol, 21.3 mL | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | ethanol | 400 mL | C(C)O | C2H6O
catalyst | 4-(N,N-dimethylamino)pyridine | 16 mmol, 2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | Ethyl 3-[N-(3-ethoxy-3-oxopropyl)-N-methylamino]-3-oxopropanoate | C(C)OC(CCN(C)C(CC(=O)OCC)=O)=O | C11H19NO5
